US07858652B2
To a stirred solution of 5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid ethyl ester (400 mg) in toluene (10 ml) at −78° C. under an argon atmosphere was added dropwise diisobutylaluminium hydride (DIBAL) (1.72 ml; 20 wt % solution in toluene) for 10 minutes (temperature below −75° C.). After 2 hours of stirring at −78° C., conversion of the ester was found to be incomplete. More DIBAL solution (1.17 ml.) was added over a period of 5 minutes and stirring at −78° C. was continued for 1 hour and 30 minutes. The mixture was quenched by the addition of 10 ml potassium-sodium tartrate concentrated aqueous solution. The aqueous phase was back extracted with ethyl acetate. The combined organics were washed with H2O and brine, dried over MgSO4, filtered and concentrated to leave [5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-methanol as (346 mg) as off-white solid. The crude product was used in the next reaction step without further purification. MS (ISP): 247.3 ([M+H]+).

reactant | 5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C=1N=CN(C1F)COCC[Si](C)(C)C | C12H21FN2O3Si
reactant | diisobutylaluminium hydride | 1.72 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | DIBAL | 1.17 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-methanol | FC1=C(N=CN1COCC[Si](C)(C)C)CO | C10H19FN2O2Si
